Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o male with no significant pmh
who presents with left sided chest pain, found to have left 
upper
lobe anterolateral lung abscess and pneumomediastinum.

He was in his usual state of health until 3 weeks ago when he
developed gradually worsening, sharp, persistent, left-sided
chest pain, worse with inspiration.  He also has had a mild
nonproductive cough.  He denies fevers, chills, chest trauma.  
He
denies abdominal pain, joint pain, joint swelling.  He denies
sore throat.  He has never been incarcerated, works as a
___, and has no known TB exposure or significant healthcare
exposures.

He initially presented to ___ on ___ following an
abnormal CXR at urgent care.  Because urgent care xray revealed 
a
left upper lobe opacity, he underwent a CT scan which showed a
3.6 x 4.3cm abscess vs mass.  He was discharged home with a
diagnosis of PNA, and given Levaquin x4 days.

Since then he has had resolution of the chest pain, but 
continues
to have an intermittent cough.  A repeat CT scan was performed
___, ordered by his PCP, which showed evolution of the mass, now
with possible involvement of the pleura, as well as
pneumomediastinum.  Because of this he was referred to the ED at
___, and given the findings, he was transferred to ___
for further evaluation and thoracics consult.
 
In the ___ ED, he was given IV Vancomycin.  Thoracics was
consulted who recommended admission to medicine with ID consult
and IV Antibiotics.

Regarding prior antibiotic exposures, he reports a prior 7 day
course of PO Abx in ___ for a R axillary abscess.  Other than
this and the recent Levofloxacin, no other recent ABx.
 
REVIEW OF SYSTEMS: 10 point ROS reviewed and negative except as
per HPI  
 
Past Medical History:
- left inguinal hernia repair
- prior R axillary abscess treated ___
 
Social History:
___
Family History:
Father - DM2
Grandmother - ___, breast cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
===============================
VS: T 98.4, HR 77, BP 100/58, RR 16, 96% RA 
GENERAL: NAD, well appearing
HEENT: AT/NC, EOMI, anicteric sclera, MMM, oropharynx clear w/o
lesion or exudate
NECK: supple, no LAD  
HEART: RRR 
LUNGS: CTAB, no wheezes, breathing comfortably on RA
ABDOMEN: nondistended, nontender 
EXTREMITIES: no cyanosis, clubbing, or edema.  No joint effusion
or swelling.
PULSES: 2+ radial pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:  
=============================
VS: 98.0PO 128 / 85 74 18 99 Ra 
GENERAL: NAD, well appearing
HEENT: EOMI, anicteric sclera, MMM
HEART: RRR, no murmurs
LUNGS: CTAB, no wheezes/crackles, breathing comfortably on RA
ABDOMEN: Soft, nondistended, nontender, +BS
EXTREMITIES: WWP, no edema. 
NEURO: A&Ox3, moving all 4 extremities with purpose ==
 
Pertinent Results:
ADMISSION LABS:
====================
___ 07:52PM BLOOD WBC-10.4* RBC-4.25* Hgb-12.8* Hct-37.7* 
MCV-89 MCH-30.1 MCHC-34.0 RDW-12.2 RDWSD-39.9 Plt ___
___ 07:52PM BLOOD Neuts-61.9 ___ Monos-8.7 Eos-1.4 
Baso-0.5 Im ___ AbsNeut-6.45* AbsLymp-2.80 AbsMono-0.91* 
AbsEos-0.15 AbsBaso-0.05
___ 07:52PM BLOOD Glucose-111* UreaN-13 Creat-0.9 Na-142 
K-4.3 Cl-101 HCO3-28 AnGap-13
___ 07:30AM BLOOD Calcium-9.1 Phos-3.7 Mg-2.4
___ 03:57PM URINE Color-Straw Appear-Clear Sp ___
___ 03:57PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 03:57PM URINE barbitr-NEG opiates-NEG cocaine-POS* 
amphetm-NEG oxycodn-NEG mthdone-NEG
___ 07:30AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

PERTINENT LABS:
====================
___ 07:30AM BLOOD TSH-5.3*
___ 03:30PM BLOOD T3-95 Free T4-1.2
___ 08:10AM BLOOD ANCA-NEGATIVE B
___ 08:10AM BLOOD ___ CRP-29.6*
___ 07:30AM BLOOD HIV Ab-NEGATIVE
___ 07:30AM BLOOD Vanco-19.4
___ 11:44PM URINE Hours-RANDOM Creat-62 Na-56
___ 11:44PM URINE Osmolal-197

DISCHARGE LABS:
====================
___ 05:54AM BLOOD WBC-9.6 RBC-4.33* Hgb-12.6* Hct-38.4* 
MCV-89 MCH-29.1 MCHC-32.8 RDW-12.0 RDWSD-39.2 Plt ___
___ 05:54AM BLOOD Glucose-93 UreaN-11 Creat-1.3* Na-142 
K-4.4 Cl-102 HCO3-29 AnGap-11
___ 07:30AM BLOOD ALT-10 AST-14 LD(LDH)-141 AlkPhos-53 
TotBili-0.2
___ 05:54AM BLOOD Calcium-9.5 Phos-4.3 Mg-2.0

IMAGING:
====================
ECHO ___
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. There is mild global left ventricular hypokinesis (LVEF 
= 45 %). Tissue Doppler imaging suggests a normal left 
ventricular filling pressure (PCWP<12mmHg). Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
number of aortic valve leaflets cannot be determined. There is 
no aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The pulmonary artery systolic pressure could not 
be determined. There is no pericardial effusion. 

JUGULAR VEIN ULTRASOUND ___
No evidence of deep vein thrombosis in the bilateral internal 
and external 
jugular veins. 

CHEST XRAY ___
1. Right-sided PICC line ends at the cavoatrial junction.  No 
evidence of 
pneumothorax. 
2. Focal opacification located laterally within the left 
hemithorax likely 
represents infarct, secondary to adjacent pulmonary embolus as 
seen on CT from ___. However in a patient of this 
age, vasculitis cannot be entirely excluded. 
3. Persistent pneumomediastinum. 

MICROBIOLOGY:
====================
__________________________________________________________
___ 7:03 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 
__________________________________________________________
___ 8:21 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 7:52 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

___ 08:10AM BLOOD B-GLUCAN-PND
___ 08:10AM BLOOD ASPERGILLUS GALACTOMANNAN ANTIGEN-PND
 
Brief Hospital Course:
___ man with no chronic medical problems who presented with left 
sided chest pain and cough, with outpatient imaging showing left 
upper lobe mass felt to be an abscess. He was treated with 
vancomycin/zosyn and transitioned to ertapenem at discharge. 

# Lung Abscess with Pneumomediastinum:  
Patient presented with lung mass on CT scan, felt most likely an 
abscess possibly precipitated by aspiration event in the setting 
of alcohol/drug use v. small nodular bacterial pneumonia that 
coalesced into abscess given inadequate treatment with 4 days of 
PO levoquin as outpatient. Differential diagnosis also included 
atypical infection (e.g. fungal) v. inflammatory process v. 
malignant process, all felt much less likely. CT imaging ___ 
with progression of mass and concern for pneumomediastinum. 
Infectious disease was consulted who recommended treatment for 
pyogenic lung abscess with vancomycin/zosyn. Thoracic surgery 
and interventional pulmonology were consulted for consideration 
of biopsy v. abscess drainage. Both teams recommended 
conservative medical management with close follow up, given low 
concern for pleural involvement and very low concern for 
mediastinitis given patient very well appearing and stable 
throughout admission. Pneumomediastinum may have occurred 
secondary to intranasal cocaine use v. coughing. HIV was 
negative. ___ and ANCA negative. Blood cultures were no growth 
to date. TTE without evidence of pericardial seeding. Jugular 
vein ultrasound without thrombosis. On discharge, he was 
transitioned to ertapenem with plan for at least 4 weeks of 
antibiotics [Day 1 ___, with repeat CT chest in 4 weeks and 
close PCP, ___, interventional pulmonology, and 
thoracic surgery follow up. He will need further workup if mass 
persists on repeat imaging status post antibiotics. 

# Reduced ejection fraction:
Patient's TTE was notable for reduced ejection fraction of 45% 
and mild global left ventricular hypokinesis. Most likely 
secondary to alcohol and cocaine use. TSH was elevated at 5.3, 
but T3 and free T4 were normal. He will need repeat TTE in 3 
months and further outpatient work-up if persistent depression 
of ejection fraction.

# Acute kidney injury: 
Patient developed ___ from 0.9 on admission to 1.3. This 
remained stable the next day, without improvement with IV 
fluids. ___ was felt secondary to zosyn he received in house. 
Vancomycin level was 19, so vancomycin felt less likely to be 
culprit. Urine sediment without concerning findings. Patient was 
encouraged to continue good PO intake on discharge. He will need 
a repeat creatinine in 1 week to ensure normalization. 

TRANSITIONAL ISSUES:
====================================
Discharge Cr: 1.3

OUTPATIENT LABS: Weekly CBC with differential, BUN, Cr, AST, 
ALT, Total Bili, ALK PHOS
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

FOLLOW UP:
[] Patient was discharged with a ___ and plan for Ertapenem 1g 
IV daily through at least ___. Final course to be determined 
by infectious disease. 
[] Please follow up creatinine within one week to ensure 
continues to downtrend to baseline. If persistently elevated, 
please pursue further work up.
[] Consider re-checking thyroid function tests in 1 month.
[] Please follow up beta glucan and aspergillus galactomannan 
which were pending at discharge.
[] Please follow up blood cultures which were pending at 
discharge.
[] Please follow up repeat CT Chest on ___.
[] Patient will follow up with PCP, ___, 
interventional pulmonology and thoracic surgery as an 
outpatient. 
[] Please repeat TTE in 3 months. If persistently depressed 
ejection fraction, please continue workup as outpatient. 
[] Please continue counseling patient on alcohol and 
recreational drug cessation.  

#CODE: Full (presumed)  
#CONTACT:
___ 
___: MOTHER 
___

[x]>30 minutes spent on discharge planning and care coordination 
on day of discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
2.  Ertapenem Sodium 1 g IV DAILY 
RX *ertapenem [Invanz] 1 gram 1 g IV Daily Disp #*30 Vial 
Refills:*0 
3.Outpatient Lab Work
ICD-9: 513.0 Lung Abscess
LABS:WEEKLY CBC with differential, BUN, Cr, AST, ALT, Total 
Bili, ALK PHOS
FAX TO: ATTN: ___ CLINIC
FAX: ___

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left upper lobe mass, presumed abscess 
Pneumomediastinum 
Reduced ejection fraction 
Acute Kidney Injury 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you were having chest 
pain and the CAT scan of your chest showed a mass.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
- You were treated with antibiotics, because the mass in your 
lung is most likely an infection/abscess.
- You were evaluated by the infectious disease team, who 
recommended a long course of antibiotics. 
- You were evaluated by the thoracic surgeons and interventional 
pulmonologists (lung specialists). They did not recommend biopsy 
or other procedures at this time because they felt the 
antibiotics alone should treat the infection.
- You had an echo (an ultrasound of your heart) and an 
ultrasound of the veins in your neck. There was no evidence that 
the infection in your lungs had spread to those areas.
- You had a PICC line placed so that you could get IV 
antibiotics at home. 
- Your blood tests showed some kidney injury. This may be from 
one of the antibiotics you got in the hospital. You will be 
taking a different antibiotic at home. Your primary care doctor 
___ continue to monitor this to ensure it improves. 

WHAT SHOULD I DO WHEN I GO HOME?
- You will need to complete at least 4 weeks of IV antibiotics. 
The infectious disease doctors ___ be in touch with you 
regarding the exact duration. 
- ***You will need to get blood tests each week while on 
antibiotics, starting on ___. *** This is to monitor 
for side effects. 
- Please keep all your follow up appointments as listed below.
- You will see the infectious disease, interventional 
pulmonology, and thoracic surgery doctors as ___ outpatient.
- You will get a repeat CAT scan of your chest in ___ as 
listed below to make sure the mass in your lungs improved with 
antibiotics. If the mass is still there, you will likely need 
additional testing and treatment.  
- It is very important not to drink alcohol or use any other 
recreational drugs while you are on antibiotics. 

WHEN SHOULD I COME BACK TO THE HOSPITAL?
- If you have fevers/chills, chest pain, difficulty breathing, 
nausea/vomiting.
- If you have pain, redness, swelling around your PICC line.

It was a pleasure caring for you, and we wish you all the best.

Sincerely,
Your ___ team
 
Followup Instructions:
___